US05021411
5 g (14.2 mmol) of 4,5-dihydro-3-iodo-5,7-dimethyl-6H -imidazo[1,5-a][1,4]benzodiazepin-6-one were heated to boiling under reflux for 4.5 hours with 1.50 g (17.8 mmol) of 2-methyl-3-butyn-2-ol, 70 mg of bis-(triphenyl -phosphine)-palladium(II) dichloride and 20 mg of copper(I) iodide in 40 ml of diethylamine. The reaction mixture was then evaporated and the residue was chromatographed on silica gel while eluting with ethyl acetate. By recrystallization from ethyl acetate there was obtained 4,5-dihydro-3-(3-hydroxy-3-methyl-1-butynyl)-5,7-dimethyl -6H-imidazo-[1,5-a][1,4]benzodiazepin-6-one of melting point 165-167°.

reactant | 4,5-dihydro-3-iodo-5,7-dimethyl-6H -imidazo[1,5-a][1,4]benzodiazepin-6-one | 14.2 mmol, 5 g | IC=1N=CN2C1CN(C(C1=C2C=CC=C1C)=O)C | C13H12IN3O
reactant | 2-methyl-3-butyn-2-ol | 17.8 mmol, 1.50 g | CC(C)(C#C)O | C5H8O
solvent | diethylamine | 40 ml | C(C)NCC | C4H11N
catalyst | bis-(triphenyl -phosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 20 mg | [Cu]I
product | 4,5-dihydro-3-(3-hydroxy-3-methyl-1-butynyl)-5,7-dimethyl -6H-imidazo-[1,5-a][1,4]benzodiazepin-6-one | OC(C#CC=1N=CN2C1CN(C(C1=C2C=CC=C1C)=O)C)(C)C | C18H19N3O2
